US07652007B2
d) Methyl 3-amino-2-benzyloxycarbonylamino-2-methylpropionate
A solution of 0.22 g (1.42 mmol) of N,N-dimethylbarbituric acid, 0.02 g (0.017 mmol) of Pd(PPh3)4, 1.5 ml of DCM and 0.145 g (0.47 mmol) of methyl 3-allylamino-2-benzyloxycarbonylamino-2-methylpropionate is heated at 35° C. for 2 h. The reaction solution is subsequently concentrated in vacuo, and then 20 ml of diethyl ether are added, and the solution is washed 3 times with 20 ml of saturated Na2CO3 each time. A pH of 2 is adjusted by dropwise addition of 4N HCl. The aqueous phase is separated off and extracted with 2 ml of EtOAc, and the solvent is removed in vacuo. 0.105 g of the desired product are obtained. MW (calculated, monoisotopic)=266, measured value: (M+H)+ 267.

reactant | methyl 3-allylamino-2-benzyloxycarbonylamino-2-methylpropionate | 0.47 mmol, 0.145 g | C(C=C)NCC(C(=O)OC)(C)NC(=O)OCC1=CC=CC=C1 | C16H22N2O4
catalyst | Pd(PPh3)4 | 0.017 mmol, 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-amino-2-benzyloxycarbonylamino-2-methylpropionate | 0.105 g | NCC(C(=O)OC)(C)NC(=O)OCC1=CC=CC=C1 | C13H18N2O4
